US06576656B1
1-(2-Diethylaminoethyl)-4-bromo-6-[3-(2-oxo-1,3-oxazolin-3-yl)-1-propynyl]-3-hydroxy-3-(2-chlorophenyl)oxindole
To 1-(2-diethylaminoethyl)-3-hydroxy-3-(2-chlorophenyl)-4-bromo-6-iodooxindole (31.5 mg, 5.84×10−5 mol), 3-(2-Oxo-1,3-oxazolin-3-yl)-1-propyne (10.95 mg, 1.5 eq.), Pd(PPh3)2Cl2 (6.15 mg, 15 mol %) and CuI (1.7 mg, 15 mol %) under a nitrogen atmosphere was added anhydrous Et3N (0.5 mL), anhydrous toluene (0.5 mL) and anhydrous THF (0.5 mL). The resulting yellow mixture was heated to 50° C. (bath temperature) and stirred at that temperature for 1 hour and 20 minutes. The solvent was then removed in vacuo to give a yellow solid. Purification was carried out by column chromatography (silica gel, 3% MeOH in CHCl3) to yield the title compound (24.9 mg, 76%) as a white solid. The hydrochloride of the title compound was obtained by treating with 4 N HCl in dioxane followed by concentration to dryness.

reactant | 1-(2-diethylaminoethyl)-3-hydroxy-3-(2-chlorophenyl)-4-bromo-6-iodooxindole | 5.84×10−5 mol, 31.5 mg | C(C)N(CCN1C(C(C2=C(C=C(C=C12)I)Br)(C1=C(C=CC=C1)Cl)O)=O)CC | C20H21BrClIN2O2
reactant | 3-(2-Oxo-1,3-oxazolin-3-yl)-1-propyne | 10.95 mg, 1.5 eq. | O=C1OC=CN1CC#C | C6H5NO2
reactant | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
reactant | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)2Cl2 | 6.15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 1.7 mg | [Cu]I
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 1-(2-Diethylaminoethyl)-4-bromo-6-[3-(2-oxo-1,3-oxazolin-3-yl)-1-propynyl]-3-hydroxy-3-(2-chlorophenyl)oxindole | 24.9 mg, 76% | C(C)N(CCN1C(C(C2=C(C=C(C=C12)C#CCN1C(OC=C1)=O)Br)(C1=C(C=CC=C1)Cl)O)=O)CC | C26H25BrClN3O4
